US07579140B2
4.2 Preparation of 2-methyl-6-nitrobenzothiazole
2-Methylbenzothiazole (22 g) in conc. sulfuric acid (80 ml) was cooled to −5° C. A mixture of conc. sulfuric acid (12 ml) in conc. nitric acid (20 ml) was added so as to maintain the temperature below 5° C. (ca. 1.5 hours). After this time the mixture was allowed to warm to room temperature and the solution poured onto ice to give a yellow precipitate. The solid was removed by filtration and recrystallised from ethanol. After filtration the solid was washed with ethanol and dried in a vacuum oven to give 18 g of the desired product.

reactant | 2-Methylbenzothiazole | 22 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
product | 2-methyl-6-nitrobenzothiazole | 18 g | CC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H6N2O2S
